### PR TITLE
[Merged by Bors] - feat(NumberTheory/LSeries): analytic continuation of Dirichlet L-series

### PR DESCRIPTION
**Pull request by loefflerd**
We prove analytic continuation of the L-function of any periodic function on the naturals, including Dirichlet characters.

---

- [x] depends on: #13353 
- [x] depends on: #14495

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/LSeries/ZMod.lean [hunk 1]
```diff
@@ -0,0 +1,203 @@
...
+  have aux1 : (0 : ℝ) ≤ j.val + N * m := by positivity
+  have aux2 : (0 : ℝ) ≤ (↑N)⁻¹ := by positivity
+  have aux3 : arg (N : ℂ) ≠ π := by simpa only [natCast_arg] using Real.pi_pos.ne
+  have aux4 : ((N : ℂ) ^ s)⁻¹ ≠ 0 := by
+    simp only [ne_eq, inv_eq_zero, cpow_eq_zero_iff, NeZero.ne, false_and, not_false_eq_true]
+  rw [aux0, div_eq_mul_inv _ (N : ℝ), ofReal_mul, mul_cpow_ofReal_nonneg aux1 aux2, ← div_div,
+    ofReal_inv, ofReal_natCast, cpow_neg, inv_cpow _ _ aux3, ← mul_div_assoc, mul_assoc,
+    mul_div_cancel_left₀ _ aux4, mul_one_div, ← Nat.cast_mul, ← Nat.cast_add, ofReal_natCast,
+    LSeries.term_of_ne_zero' (ne_zero_of_one_lt_re hs), Nat.cast_add (R := ZMod _), Nat.cast_mul,
+    CharP.cast_eq_zero (R := ZMod N) (p := N), zero_mul, add_zero]
```
Comment (jcommelin) [inline Mathlib/NumberTheory/LSeries/ZMod.lean:93]: Could you please consider writing this as a `calc`-mode proof? I think it would improve readability, and probably also maintainability of the proof.

File: Mathlib/NumberTheory/LSeries/DirichletContinuation.lean [hunk 2]
```diff
@@ -0,0 +1,69 @@
...
+The unique meromorphic function `ℂ → ℂ` which agrees with `∑' n : ℕ, χ n / n ^ s` wherever the
+latter is convergent. This is constructed as a linear combination of Hurwitz zeta functions.
+
+Note that this is not the same as `LSeries χ`: they agree in the convergence range, but
+`LSeries χ s` is defined to be `0` if `re s ≤ 1`.
+ -/
+noncomputable def LFunction (χ : DirichletCharacter ℂ N) (s : ℂ) : ℂ := ZMod.LFunction χ s
+
+/-- The L-function of the (unique) Dirichlet character mod 1 is the Riemann zeta function. -/
+lemma LFunction_mod_one {χ : DirichletCharacter ℂ 1} :
```
Comment (jcommelin) [inline Mathlib/NumberTheory/LSeries/DirichletContinuation.lean:44]: Should this be a simp lemma?

File: Mathlib/NumberTheory/LSeries/ZMod.lean [hunk 3]
```diff
@@ -0,0 +1,203 @@
...
+    refine (differentiableAt_expZeta _ _ ((hU hu).imp_right fun h ↦ ?_)).differentiableWithinAt
+    rwa [ne_eq, toAddCircle_eq_zero]
+  have hUc : IsPreconnected U := by
+    by_cases h : j = 0
+    · simpa only [h, ↓reduceIte, U] using
+        (isConnected_compl_singleton_of_one_lt_rank (by simp) _).isPreconnected
+    · simpa only [h, ↓reduceIte, U] using isPreconnected_univ
+  have hV : V ∈ 𝓝 2 := (continuous_re.isOpen_preimage _ isOpen_Ioi).mem_nhds (by simp)
+  have hUmem : 2 ∈ U := by simp [U]
+  have hUmem' : s ∈ U := by simpa only [Set.mem_ite_univ_right, U] using hjs.neg_resolve_left
```
Comment (jcommelin) [inline Mathlib/NumberTheory/LSeries/ZMod.lean:159]: Minor suggestion:
```suggestion
  have hU {u} : u ∈ U ↔ u ≠ 1 ∨ j ≠ 0 := by simp only [Set.mem_ite_univ_right, U]; tauto
  -- hypotheses for uniqueness of analytic continuation
  have hf : AnalyticOn ℂ f U := by
    refine DifferentiableOn.analyticOn (fun u hu ↦ ?_) hUo
    refine (differentiableAt_LFunction _ _ ((hU.mp hu).imp_right fun h ↦ ?_)).differentiableWithinAt
    simp only [mul_comm j, AddChar.sum_mulShift _ (isPrimitive_stdAddChar _), h,
        ↓reduceIte, CharP.cast_eq_zero, or_true]
  have hg : AnalyticOn ℂ g U := by
    refine DifferentiableOn.analyticOn (fun u hu ↦ ?_) hUo
    refine (differentiableAt_expZeta _ _ ((hU.mp hu).imp_right fun h ↦ ?_)).differentiableWithinAt
    rwa [ne_eq, toAddCircle_eq_zero]
  have hUc : IsPreconnected U := by
    by_cases h : j = 0
    · simpa only [h, ↓reduceIte, U] using
        (isConnected_compl_singleton_of_one_lt_rank (by simp) _).isPreconnected
    · simpa only [h, ↓reduceIte, U] using isPreconnected_univ
  have hV : V ∈ 𝓝 2 := (continuous_re.isOpen_preimage _ isOpen_Ioi).mem_nhds (by simp)
  have hUmem : 2 ∈ U := by simp [U]
  have hUmem' : s ∈ U := hU.mpr hjs.symm
```

File: Mathlib/Analysis/SumOverResidueClass.lean [hunk 4]
```diff
@@ -92,3 +92,26 @@ lemma summable_indicator_mod_iff {m : ℕ} [NeZero m] {f : ℕ → ℝ} (hf : An
   convert summable_sum (s := Finset.univ)
     fun a _ ↦ summable_indicator_mod_iff_summable_indicator_mod hf a H
   simp only [Finset.sum_apply]
+
+open ZMod
+
+/-- Equivalence between `ℕ` and `ZMod N × ℕ`, sending `n` to `(n mod N, n / N)`. -/
+def Nat.residueClassesEquiv (N : ℕ) [NeZero N] : ℕ ≃ ZMod N × ℕ where
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SumOverResidueClass.lean:99]: This seems like a purely algebraic result; can it go somewhere earlier?

File: Mathlib/NumberTheory/LSeries/Basic.lean [hunk 5]
```diff
@@ -77,6 +77,14 @@ lemma term_of_ne_zero {n : ℕ} (hn : n ≠ 0) (f : ℕ → ℂ) (s : ℂ) :
     term f s n = f n / n ^ s :=
   if_neg hn
 
+/-- If `0 < re s`, then the `if .. then .. else` construction in `LSeries.term` isn't needed, since
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/LSeries/Basic.lean:80]: The assumption in the lemma is `s ≠ 0`, not `0 < re s`

File: Mathlib/NumberTheory/LSeries/DirichletContinuation.lean (hunk 2 above)
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/LSeries/DirichletContinuation.lean:44]: Should we not be using `lfunction` in lemma names by the naming convention? (Or namespacing)

File: Mathlib/NumberTheory/LSeries/ZMod.lean [hunk 6]
```diff
@@ -0,0 +1,203 @@
...
+`LSeries Φ s` is defined to be `0` if `re s ≤ 1`.
+ -/
+noncomputable def LFunction (Φ : ZMod N → ℂ) (s : ℂ) : ℂ :=
+  N ^ (-s) * ∑ j : ZMod N, Φ j * hurwitzZeta (toAddCircle j) s
+
+/-- The L-function of a function on `ZMod 1` is a scalar multiple of the Riemann zeta function. -/
+lemma LFunction_mod_one (Φ : ZMod 1 → ℂ) (s : ℂ) :
+    LFunction Φ s = Φ 1 * riemannZeta s := by
+  simp only [LFunction, Nat.cast_one, one_cpow, univ_unique, sum_singleton, one_mul]
+  change Φ 1 * hurwitzZeta (toAddCircle 0) s = _
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/LSeries/ZMod.lean:66]: Why do you need the `change`? Please try to avoid it

File: Mathlib/NumberTheory/LSeries/ZMod.lean [hunk 7]
```diff
@@ -0,0 +1,203 @@
...
+
+open scoped LSeries.notation in
+/-- For `1 < re s` the congruence L-function agrees with the sum of the Dirichlet series. -/
+lemma LFunction_eq_LSeries (Φ : ZMod N → ℂ) {s : ℂ} (hs : 1 < re s) :
+    LFunction Φ s = LSeries ↗Φ s := by
+  rw [LFunction, LSeries, mul_sum, Nat.sumByResidueClasses (LSeriesSummable_of_one_lt_re Φ hs) N]
+  congr 1 with j
+  have ha : (j.val / N : ℝ) ∈ Set.Icc 0 1 := ⟨by positivity, by
+    rw [div_le_one (Nat.cast_pos.mpr <| NeZero.pos _), Nat.cast_le]
+    exact (val_lt _).le⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/LSeries/ZMod.lean:77]: I would avoid relying on the `Set.Icc` definition, maybe with:
```suggestion
  have ha : (j.val / N : ℝ) ∈ Set.Icc 0 1 := by
    rw [Set.mem_Icc]
    constructor
    · positivity
    · rw [div_le_one (Nat.cast_pos.mpr <| NeZero.pos _), Nat.cast_le]
      exact (val_lt _).le
```

File: Mathlib/NumberTheory/LSeries/ZMod.lean [hunk 8]
```diff
@@ -0,0 +1,203 @@
...
+    simp only [ne_eq, inv_eq_zero, cpow_eq_zero_iff, NeZero.ne, false_and, not_false_eq_true]
+  rw [aux0, div_eq_mul_inv _ (N : ℝ), ofReal_mul, mul_cpow_ofReal_nonneg aux1 aux2, ← div_div,
+    ofReal_inv, ofReal_natCast, cpow_neg, inv_cpow _ _ aux3, ← mul_div_assoc, mul_assoc,
+    mul_div_cancel_left₀ _ aux4, mul_one_div, ← Nat.cast_mul, ← Nat.cast_add, ofReal_natCast,
+    LSeries.term_of_ne_zero' (ne_zero_of_one_lt_re hs), Nat.cast_add (R := ZMod _), Nat.cast_mul,
+    CharP.cast_eq_zero (R := ZMod N) (p := N), zero_mul, add_zero]
+  simp only [Nat.cast_add, natCast_val, Nat.cast_mul, cast_id', id_eq]
+
+private lemma differentiable_Npow : Differentiable ℂ (fun (s : ℂ) ↦ (N : ℂ) ^ (-s)) :=
+    Differentiable.const_cpow (by fun_prop) (Or.inl <| NeZero.ne _)
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/LSeries/ZMod.lean:97]:
```suggestion
  Differentiable.const_cpow (by fun_prop) (Or.inl <| NeZero.ne _)
```

File: Mathlib/NumberTheory/LSeries/ZMod.lean [hunk 9]
```diff
@@ -0,0 +1,203 @@
...
+  have aux4 : ((N : ℂ) ^ s)⁻¹ ≠ 0 := by
+    simp only [ne_eq, inv_eq_zero, cpow_eq_zero_iff, NeZero.ne, false_and, not_false_eq_true]
+  rw [aux0, div_eq_mul_inv _ (N : ℝ), ofReal_mul, mul_cpow_ofReal_nonneg aux1 aux2, ← div_div,
+    ofReal_inv, ofReal_natCast, cpow_neg, inv_cpow _ _ aux3, ← mul_div_assoc, mul_assoc,
+    mul_div_cancel_left₀ _ aux4, mul_one_div, ← Nat.cast_mul, ← Nat.cast_add, ofReal_natCast,
+    LSeries.term_of_ne_zero' (ne_zero_of_one_lt_re hs), Nat.cast_add (R := ZMod _), Nat.cast_mul,
+    CharP.cast_eq_zero (R := ZMod N) (p := N), zero_mul, add_zero]
+  simp only [Nat.cast_add, natCast_val, Nat.cast_mul, cast_id', id_eq]
+
+private lemma differentiable_Npow : Differentiable ℂ (fun (s : ℂ) ↦ (N : ℂ) ^ (-s)) :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/LSeries/ZMod.lean:96]: `Npow` doesn't seem in line with the naming convention either, though I guess you get a little more leeway with private lemmas

File: Mathlib/NumberTheory/LSeries/DirichletContinuation.lean (hunk 2 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/DirichletContinuation.lean:44]: This is a counterpart of the existing `DirichletCharacter.LSeries_modOne_eq`.

File: Mathlib/Analysis/SumOverResidueClass.lean (hunk 4 above)
Comment (loefflerd) [reply Mathlib/Analysis/SumOverResidueClass.lean:99]: Good point, I moved it to `Data.ZMod.Basic`.

File: Mathlib/NumberTheory/LSeries/ZMod.lean (hunk 9 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/ZMod.lean]: It only gets used twice anyway so I inlined it

**Comment by loefflerd** [comment]
Thanks Ruben and Johan for all the comments! Ready for review again.

File: Mathlib/NumberTheory/LSeries/ZMod.lean [hunk 10]
```diff
@@ -0,0 +1,204 @@
...
+The unique meromorphic function `ℂ → ℂ` which agrees with `∑' n : ℕ, Φ n / n ^ s` wherever the
+latter is convergent. This is constructed as a linear combination of Hurwitz zeta functions.
+
+Note that this is not the same as `LSeries Φ`: they agree in the convergence range, but
+`LSeries Φ s` is defined to be `0` if `re s ≤ 1`.
+ -/
+noncomputable def LFunction (Φ : ZMod N → ℂ) (s : ℂ) : ℂ :=
+  N ^ (-s) * ∑ j : ZMod N, Φ j * hurwitzZeta (toAddCircle j) s
+
+example {α : Type} [Fintype α] [Unique α] (a : α) : (univ : Finset α) = {a} := by
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/LSeries/ZMod.lean:62]: I'm guessing this example shouldn't be here.

Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/ZMod.lean]: Oops! Yes, that was just me using `exact?` to find a simp lemma. Fixed now.

File: Mathlib/NumberTheory/LSeries/DirichletContinuation.lean [hunk 11]
```diff
@@ -0,0 +1,70 @@
...
+Note that this is not the same as `LSeries χ`: they agree in the convergence range, but
+`LSeries χ s` is defined to be `0` if `re s ≤ 1`.
+ -/
+noncomputable def LFunction (χ : DirichletCharacter ℂ N) (s : ℂ) : ℂ := ZMod.LFunction χ s
+
+/-- The L-function of the (unique) Dirichlet character mod 1 is the Riemann zeta function.
+(Compare `DirichletCharacter.LSeries_modOne_eq`.) -/
+@[simp] lemma LFunction_modOne_eq {χ : DirichletCharacter ℂ 1} :
+    LFunction χ = riemannZeta := by
+  ext1 s; rw [LFunction, ZMod.LFunction_modOne_eq, (by rfl : (0 : ZMod 1) = 1), map_one, one_mul]
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/LSeries/DirichletContinuation.lean:47]:
```suggestion
    LFunction χ = riemannZeta := by
  ext1; rw [LFunction, ZMod.LFunction_modOne_eq, (by rfl : (0 : ZMod 1) = 1), map_one, one_mul]
```

File: Mathlib/NumberTheory/LSeries/ZMod.lean [hunk 12]
```diff
@@ -0,0 +1,204 @@
...
+  rw [toAddCircle_apply, ← (hasSum_expZeta_of_one_lt_re (j.val / N) hz).tsum_eq,
+    LFunction_eq_LSeries _ hz, LSeries]
+  congr 1 with n
+  rw [LSeries.term_of_ne_zero' (ne_zero_of_one_lt_re hz), ofReal_div, ofReal_natCast,
+    ofReal_natCast, mul_assoc, div_mul_eq_mul_div, stdAddChar_apply]
+  have := ZMod.toCircle_intCast (N := N) (j.val * n)
+  conv_rhs at this => rw [Int.cast_mul, Int.cast_natCast, Int.cast_natCast, mul_div_assoc]
+  rw [← this, Int.cast_mul, Int.cast_natCast, Int.cast_natCast, natCast_zmod_val]
+
+
```
[the remark this answers is not in the document]
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/ZMod.lean]: (Off-topic: GitHub's web interface seems to have a bug. Your suggestion was to remove an unnecessary extra blank line, but the web page displays it as if you wanted to _add_ a blank line. Fortunately what actually got committed is the right thing, it is just the preview of the suggested change that is bogus.)

File: Mathlib/NumberTheory/LSeries/ZMod.lean [hunk 13]
```diff
@@ -0,0 +1,200 @@
...
+    · simp only [h, ↓reduceIte, isOpen_univ, U]
+  let f := LFunction (fun k ↦ stdAddChar (j * k))
+  let g := expZeta (toAddCircle j)
+  have hU {u} : u ∈ U ↔ u ≠ 1 ∨ j ≠ 0 := by simp only [Set.mem_ite_univ_right, U]; tauto
+  -- hypotheses for uniqueness of analytic continuation
+  have hf : AnalyticOn ℂ f U := by
+    refine DifferentiableOn.analyticOn (fun u hu ↦ ?_) hUo
+    refine (differentiableAt_LFunction _ _ ((hU.mp hu).imp_right fun h ↦ ?_)).differentiableWithinAt
+    simp only [mul_comm j, AddChar.sum_mulShift _ (isPrimitive_stdAddChar _), h,
+        ↓reduceIte, CharP.cast_eq_zero, or_true]
```
Comment (Ruben-VandeVelde) [inline Mathlib/NumberTheory/LSeries/ZMod.lean:145]:
```suggestion
      ↓reduceIte, CharP.cast_eq_zero, or_true]
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
I'm not sure I agree with the L-in-names argument, but I see we'd need to change it more widely than this change, so no need to block on it.

Just one more comment from my side

**Comment by loefflerd** [comment]
Well spotted, thanks Ruben! Are we done here, then?

File: Mathlib/NumberTheory/LSeries/DirichletContinuation.lean [hunk 14]
```diff
@@ -0,0 +1,70 @@
...
+Authors: David Loeffler
+-/
+import Mathlib.NumberTheory.LSeries.ZMod
+import Mathlib.NumberTheory.DirichletCharacter.Basic
+
+/-!
+# Analytic continuation of Dirichlet L-functions
+
+We show that if `χ` is a Dirichlet character `ZMod N → ℂ`, for a positive integer `N`, then the
+L-series of `χ` has meromorphic continuation (away from a pole at `s = 1` if `χ` is trivial).
```
Comment (kbuzzard) [inline Mathlib/NumberTheory/LSeries/DirichletContinuation.lean:13]:
```suggestion
L-series of `χ` has analytic continuation (away from a pole at `s = 1` if `χ` is trivial).
```

**Review by kbuzzard — APPROVED** [review]
Excellent work David! Thanks a lot!

**Comment by MichaelStollBayreuth** [comment]
> Excellent work David! Thanks a lot!

+1 (and sorry for not finding the time to review...)

**Comment by loefflerd** [comment]
Thanks for all the feedback, everyone! Is anyone willing to take the leap and submit this for merging?

**Comment by MichaelStollBayreuth** [comment]
OK, I'll bite!
maintainer merge

**Comment by kbuzzard** [comment]
Bors merge

**Comment by kbuzzard** [comment]
bors merge

**Comment by sgouezel** [comment]
bors r-
Can you merge master, fix the lint, and then send it back to bors?
bors d+

**Comment by loefflerd** [comment]
Aargh – it seems that in the interval of ~4 days since I last merged master, some other PR's got merged which added a few lines to `Mathlib.Data.ZMod.Basic`, and those changes together with the ones in this PR put it just over the length limit. Will fix.

File: scripts/style-exceptions.txt [hunk 15]
```diff
@@ -1 +1 @@
-
+Mathlib/Data/ZMod/Basic.lean : line 1 : ERR_NUM_LIN : 1700 file contains 1505 lines, try to split it up
```
Comment (Parcly-Taxel) [inline scripts/style-exceptions.txt:1]: And then another PR landed, which means you should not add to `style-exceptions.txt` anymore. Instead add `set_option linter.style.longFile 1700` to the bottom of `Data.ZMod.Basic`.

**Review by Parcly-Taxel — CHANGES_REQUESTED** [review]

File: scripts/style-exceptions.txt (hunk 15 above)
Comment (loefflerd) [reply scripts/style-exceptions.txt:1]: > which means you should not add to style-exceptions.txt anymore. 

The linting script said, "run `lake exe lint-style --update` to fix this warning". So I did. Sounds like the code for `lint-style --update` needs updating...
